* AND
         
.INCLUDE 45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

.PARAM Lmin=45n
.PARAM Wmin=1u
.PARAM Ldiff=90n

Vdd vdd gnd 1.2v
Va 	ina 0 	1.2v
Vb 	inb 0 	0v

.subckt and a b out2 vdd gnd
M1 inter b 		gnd   gnd nmos W={Wmin} L={Lmin} 
M2 out1  a 		inter gnd nmos W={Wmin} L={Lmin} 
M3 out1  a 		vdd   vdd pmos W={Wmin} L={Lmin} 
M4 out1  b 		vdd   vdd pmos W={Wmin} L={Lmin} 
M5 out2  out1 gnd   gnd nmos W={Wmin} L={Lmin} 
M6 out2  out1 vdd   vdd pmos W={Wmin} L={Lmin} 
.ends

X1 ina inb out vdd gnd and

.CONTROL
	set wr_vecnames
	set wr_singlescale
	set appendwrite

	foreach VA 0 1.2
		alter Va = $VA
		foreach VB 0 1.2
			alter Vb = $VB
				op
				print X1.inter out
				* wrdata and.txt X1.inter out
		end
	end

	run

.ENDC
.END